US07939665B2
To a mixture of 1,6-di-(tert-butoxycarbonyl)-ergoline-8β-carboxylic acid (300 g) in methanol (1.2 L) is slowly added thionyl chloride (94 g). The mixture is slowly heated to 50-55° C. and stirred until reaction completion (ca. 4-5 h). The resulted suspension is cooled to room temperature and to it is added methyl t-butyl ether (600 mL) and heptanes (1.8 L). The suspension is further cooled to 0-5° C. Filtered and washed with methyl t-butyl ether. The isolated solid is dried to give methyl ergoline-8β-carboxylate hydrochloride (190.5 g) in 94.5% yield.

reactant | 1,6-di-(tert-butoxycarbonyl)-ergoline-8β-carboxylic acid | 300 g | C(C)(C)(C)OC(=O)N1C=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)O)C(=O)OC(C)(C)C | C25H32N2O6
reactant | thionyl chloride | 94 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl t-butyl ether | 600 mL | C(C)(C)(C)OC | C5H12O
solvent | methanol | 1.2 L | CO | CH4O
product | methyl ergoline-8β-carboxylate hydrochloride | 190.5 g, 94.5% yield | Cl.[C@@H]1(CN[C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C(=O)OC | InChI=1S/C16H18N2O2.ClH/c1-20-16(19)10-5-12-11-3-2-4-13-15(11)9(7-17-13)6-14(12)18-8-10;/h2-4,7,10,12,14,17-18H,5-6,8H2,1H3;1H/t10-,12-,14-;/m1./s1
